US06528510B1
Toluene-4-thiosulfonic acid S-(7-tert-butyl-2,3-dioxo-1,2,3,4-tetrahydro-quinoxalin-6-yl) ester
The title compound was prepared according to the General Method 15 using 6-tert-butyl-7-mercapto-1,4-dihydro-quinoxaline-2,3-dione (prepared in Example DDD, 9.1 mmol), tosyl bromide (2.1 g, 9.1 mmol), pyridine (2 mL), EtOAc (50 mL). The crude product was purified by flash silica gel chromatography (5%-10% MeOH in CH2Cl2) as eluents. MS(APCI): 405 (M+H).

reactant | 6-tert-butyl-7-mercapto-1,4-dihydro-quinoxaline-2,3-dione | 9.1 mmol | C(C)(C)(C)C=1C=C2NC(C(NC2=CC1S)=O)=O | C12H14N2O2S
reactant | tosyl bromide | 9.1 mmol, 2.1 g | S(=O)(=O)(C1=CC=C(C)C=C1)Br | C7H7BrO2S
reactant | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | Toluene-4-thiosulfonic acid S-(7-tert-butyl-2,3-dioxo-1,2,3,4-tetrahydro-quinoxalin-6-yl) ester | C(C)(C)(C)C1=C(C=C2NC(C(NC2=C1)=O)=O)SS(=O)(=O)C1=CC=C(C=C1)C | C19H20N2O4S2
